US05847153
Step 7 Preparation of N-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propionamide.
N-benzyloxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl- propionamide (1.25 g, 2.85 mmol) is dissolved in 45 mL of ethanol. To this is added 0.36 g of palladium hydroxide on carbon (Pearlman's catalyst), and the suspension is placed in a shaker under 15 psi of hydrogen for 2.25 hours. The catalyst is filtered off, washing with ethanol, and the ethanol solution is concentrated in vacuo to afford, after evaporation from methylene chloride, 0.875 g of the title compound as a white solid.

reactant | N-benzyloxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl- propionamide | 2.85 mmol, 1.25 g | C(C1=CC=CC=C1)ONC(C(CC1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C24H25NO5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 45 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.36 g | [OH-].[OH-].[Pd+2]
product | N-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propionamide | ONC(C(CC1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C17H19NO5S
